US04806539
N-(2-Nitrophenylsulphenyl)-bis[2-(4-toluenesulphonyloxy)ethyl]-amine (3)
389 g (1.5 mol) of crude N-(2-nitrophenylsulphenyl)-bis(2-hydroxyethyl)-amine are dissolved in 2 l of absolute pyridine, and 580 g (3 mol) of 4-toluenesulphonyl chloride are added at -10° in the course of 20 minutes. The mixture is stirred at -5° to 0° for 4 hours and left to stand at 0° overnight, and 4 l of water are added. Thereafter, the mixture is extracted with 3×1 l of methylene chloride and the extract is washed with 7×1 l of water, dried with sodium sulphate and concentrated. The oily residue is stirred with 1 l of a mixture of acetonitrile/methanol (1:1), a solid product precipitating, which is filtered off with suction with methanol. Yield: 423.6 g of melting point 91°-93°.

reactant | N-(2-nitrophenylsulphenyl)-bis(2-hydroxyethyl)-amine | 1.5 mol, 389 g | [N+](=O)([O-])C1=C(C=CC=C1)SN(CCO)CCO | C10H14N2O4S
reactant | 4-toluenesulphonyl chloride | 3 mol, 580 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | 4 l | O | H2O
solvent | pyridine | 2 l | N1=CC=CC=C1 | C5H5N
product | N-(2-Nitrophenylsulphenyl)-bis[2-(4-toluenesulphonyloxy)ethyl]-amine | [N+](=O)([O-])C1=C(C=CC=C1)SN(CCOS(=O)(=O)C1=CC=C(C=C1)C)CCOS(=O)(=O)C1=CC=C(C=C1)C | C24H26N2O8S3
